US04851519
A mixture of 6.5 g of 2'-deoxy-5-ethyl-5'-O-trityluridine, 19 g of powdered potassium hydroxide and 9.5 ml of benzyl chloride in a mixture of 60 ml of benzene and 21 ml of dioxane was stirred and heated under reflux for 4 hours. After cooling 65 ml of water and 20 ml of acetic acid were added and the phases were separated. The organic phase was washed twice with 90 ml of water each time, dried over anhydrous sodium sulfate and evaporated to give 4.5 g of 3'-O-benzyl-2'-deoxy-5-ethyl-5'-O-trityluridine in the form of a sticky solid.

reactant | 2'-deoxy-5-ethyl-5'-O-trityluridine | 6.5 g | C(C)C=1C(NC(N([C@H]2C[C@H](O)[C@@H](COC(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)O2)C1)=O)=O | C30H30N2O5
reactant | potassium hydroxide | 19 g | [OH-].[K+]
reactant | benzyl chloride | 9.5 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | water | 65 ml | O | H2O
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
solvent | dioxane | 21 ml | O1CCOCC1 | C4H8O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 3'-O-benzyl-2'-deoxy-5-ethyl-5'-O-trityluridine | 4.5 g | C(C1=CC=CC=C1)O[C@H]1C[C@@H](O[C@@H]1COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C(=O)NC(=O)C(=C1)CC | C37H36N2O5
